US07378427B2
N-(2-Iodophenyl)-4-methoxybenzenesulfonamide
To a stirred solution of 2-iodoaniline (24.82 g, 113.3 mmol) in anhydrous pyridine (36 mL) was added 4-methoxybenzenesulfonyl chloride (23.42 g, 113.3 mmol). The dark solution was heated at 80° C. for one hour. The reaction mixture was evaporated in vacuo and the residue was poured onto an ice/water mixture. The aqueous phase was decanted and the oily residue was triturated several times with 150 mL portions of water. The resulting solid was collected by filtration and washed with water and hexane. The crude material was dried under a stream of air for three hours. Recrystallization from ethanol afforded tan crystals of the title compound (39.0 g, 81.71 mmol, 72% ). An analytically pure sample was prepared by recrystallization from acetone.

reactant | 2-iodoaniline | 113.3 mmol, 24.82 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | 4-methoxybenzenesulfonyl chloride | 113.3 mmol, 23.42 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | ethanol | C(C)O | C2H6O
solvent | pyridine | 36 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Iodophenyl)-4-methoxybenzenesulfonamide | 81.71 mmol, 39.0 g, 72% | IC1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C13H12INO3S
